US07244730B2
(Step 1) 1-{4-[5-Bromo-3-(tert-butyl)-2-methoxyphenyl]piperazino}-2-methoxy-1-ethanone
Methoxyacetyl chloride (0.28 ml) was added to a solution of 1-[5-bromo-3-(tert-butyl)-2-methoxyphenyl]piperazine (850 mg) and triethylamine (0.73 ml) in methylene chloride (12 ml) while cooling on ice, the mixture was brought to room temperature and stirred for 1 hour. The reaction mixture was diluted with ethyl acetate, the insoluble portion was filtered off, and the concentrated residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (730 mg) as light red crystals (70%).

reactant | Methoxyacetyl chloride | 0.28 ml | COCC(=O)Cl | C3H5ClO2
reactant | 1-[5-bromo-3-(tert-butyl)-2-methoxyphenyl]piperazine | 850 mg | BrC=1C=C(C(=C(C1)N1CCNCC1)OC)C(C)(C)C | C15H23BrN2O
reactant | triethylamine | 0.73 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 12 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-{4-[5-Bromo-3-(tert-butyl)-2-methoxyphenyl]piperazino}-2-methoxy-1-ethanone | 730 mg | BrC=1C=C(C(=C(C1)N1CCN(CC1)C(COC)=O)OC)C(C)(C)C | C18H27BrN2O3
